### PR TITLE
Implement FunctionType

### PR DESCRIPTION
**Pull request by math-fehr**
This implements the FunctionType attribute, which is defined mutually with Attribute.
This required to implement some util functions for `Array`, in order to write a DecidableEq instance for Attribute.

### CODE REVIEW

**Comment by math-fehr** [comment]
Very cool! We can talk about it tomorrow if you want, but looking at it it makes sense!

**Comment by ineol** [comment]
@math-fehr should it still be a draft?

**Comment by tobiasgrosser** [comment]
@math-fehr, please also update the PR message.

File: Veir/IR/Attribute.lean [hunk 1]
```diff
@@ -67,18 +137,42 @@ instance : ToString IntegerType where
...
+def FunctionType.toString (type : FunctionType) : String :=
+  let inputs := String.intercalate ", " (type.inputs.toList.map Attribute.toString)
+  let outputs := String.intercalate ", " (type.outputs.toList.map Attribute.toString)
+  s!"({inputs}) -> ({outputs})"
+termination_by sizeOf type
+decreasing_by
+  · rename_i subAttr subAttrIn
+    have : sizeOf type.inputs < sizeOf type := by
+      grind [FunctionType.mk.sizeOf_spec, cases FunctionType]
+    simp only [←Array.mem_def] at subAttrIn
```
Comment (luisacicolini) [inline Veir/IR/Attribute.lean]:
```suggestion
    simp only [← Array.mem_def] at subAttrIn
```

File: Veir/IR/Attribute.lean [hunk 2]
```diff
@@ -67,18 +137,42 @@ instance : ToString IntegerType where
...
+    grind [Array.sizeOf_lt_of_mem subAttrIn]
+  · rename_i subAttr subAttrIn
+    have : sizeOf type.outputs < sizeOf type := by
+      grind [FunctionType.mk.sizeOf_spec, cases FunctionType]
+    simp only [←Array.mem_def] at subAttrIn
```
Comment (luisacicolini) [inline Veir/IR/Attribute.lean]:
```suggestion
    simp only [← Array.mem_def] at subAttrIn
```

File: Veir/Parser/AttrParser.lean [hunk 3]
```diff
@@ -32,10 +31,10 @@ def AttrParserM.run' (self : AttrParserM α)
   | .error err => .error err
 
 /--
-  Parse a type, if present.
-  Currently, only integer types are supported.
+  Parse an optional integer type.
+  An integer type is represented as `i` followed by a positive integer, e.g., `i32`.
```
Comment (luisacicolini) [inline Veir/Parser/AttrParser.lean]:
```suggestion
  An integer type is represented as `i` followed by a positive integer indicating its width, e.g., `i32`.
```
something like this?

File: Veir/ForLean.lean [hunk 4]
```diff
@@ -173,3 +173,77 @@ theorem mem_range_nat (i: Nat) (r: Rco Nat) : (i ∈ r) ↔ r.lower ≤ i ∧ i
   simp only [Membership.mem]
 
 end ranges
+
+
+/-!
+  This section adapts the standart library's `Array.isEqv` to also prove a proof
+  that the elements being related are members of their relative arrays. This
```
Comment (luisacicolini) [inline Veir/ForLean.lean]:
```suggestion
  This section adapts the standard library's `Array.isEqv` to also provide a proof
  that the elements being related are members of their relative arrays. This
```

File: Veir/ForLean.lean [hunk 5]
```diff
@@ -173,3 +173,77 @@ theorem mem_range_nat (i: Nat) (r: Rco Nat) : (i ∈ r) ↔ r.lower ≤ i ∧ i
...
+  allows us to define `Attribute.instDecidableEq` in a somewhat compositional way.
+-/
+
+namespace Array
+
+@[specialize]
+def isEqvAux' (xs ys : Array α) (hsz : xs.size = ys.size)  (p : (x: α) → (y : α) → x ∈ xs → y ∈ ys → Bool) :
```
Comment (luisacicolini) [inline Veir/ForLean.lean]:
```suggestion
def isEqvAux' (xs ys : Array α) (hsz : xs.size = ys.size) (p : (x: α) → (y : α) → x ∈ xs → y ∈ ys → Bool) :
```

File: Veir/ForLean.lean [hunk 6]
```diff
@@ -173,3 +173,77 @@ theorem mem_range_nat (i: Nat) (r: Rco Nat) : (i ∈ r) ↔ r.lower ≤ i ∧ i
...
+    p xs[i] (ys[i]'(hsz ▸ h)) (by grind) (by grind) && isEqvAux' xs ys hsz p i (Nat.le_trans (Nat.le_add_right i 1) h)
+
+@[inline] def isEqv' (xs ys : Array α) (p : (x: α) → (y : α) → x ∈ xs → y ∈ ys → Bool) : Bool :=
+  if h : xs.size = ys.size then
+    isEqvAux' xs ys h p xs.size (Nat.le_refl xs.size)
+  else
+    false
+
+private theorem rel_of_isEqvAux'  {xs ys : Array α} 
+    {r : (x: α) → (y : α) → x ∈ xs → y ∈ ys → Bool}(hsz : xs.size = ys.size) {i : Nat} (hi : i ≤ xs.size)
```
Comment (luisacicolini) [inline Veir/ForLean.lean]:
```suggestion
    {r : (x: α) → (y : α) → x ∈ xs → y ∈ ys → Bool} (hsz : xs.size = ys.size) {i : Nat} (hi : i ≤ xs.size)
```
